US06114358
A mixture of 31.7 g (206 mmol) of ethyl 5-methylfuran-3-carboxylate, 40 ml of 45% strength potassium hydroxide and 100 ml of water was refluxed for 4 h, then cooled to 10° C. and acidified to pH 1 with 15% strength hydrochloric acid. The resulting mixture was left at this temperature for 2 h, and the precipitate was filtered off and dried to constant weight at 45-50° C., resulting in 23.7 g (188 mmol, 91%) of 5-methylfuran-3-carboxylic acid.

reactant | ethyl 5-methylfuran-3-carboxylate | 206 mmol, 31.7 g | CC1=CC(=CO1)C(=O)OCC | C8H10O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 5-methylfuran-3-carboxylic acid | 188 mmol, 23.7 g, 91% | CC1=CC(=CO1)C(=O)O | C6H6O3
